US06620841B1
A mixture of ethyl thioxamate (10.55 g, 79.2 mmol) and formylhydrazine (5.00 g, 83.2 mmol) was heated at 65° C. for 30 minutes and stirred in accordance with a method described in Collect. Czech Chem. Commun., 1984, 49, p2492. After cooling, the precipitated crystal was collected by filteration and washed with ethanol to give (N-formylhydrazino)-imino acetic acid ethyl ester (9.62 g). Yield: 76%.

reactant | ethyl thioxamate | 79.2 mmol, 10.55 g | CCOC(=O)C(=S)N | C4H7NO2S
reactant | formylhydrazine | 83.2 mmol, 5.00 g | C(=O)NN | CH4N2O
product | (N-formylhydrazino)-imino acetic acid ethyl ester | 9.62 g, Yield: 76% | C(C)OC(C(=N)N(N)C=O)=O | C5H9N3O3
